US08236826B2
Production of ethyl[acetyl(3-fluoro-4-hydroxyphenyl)amino]acetate
Ethyl(3-fluoro-4-hydroxyphenylamino)acetate (0.84 g, 4 mmol) was dissolved in N,N-dimethylacetamide (4 mL). To the resulting solution was added acetyl chloride (0.6 mL, 10 mmol), and the resulting solution was stirred at room temperature for 1 hour. Water (1 mL), methanol (10 mL) and saturated sodium carbonate (10 mL) were added, and the mixture was stirred at room temperature for 1 hour. Water was added to the solution. 10% hydrochloric acid was employed to turn the solution acidic, and then the solution was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate: n-hexane 2:1), to thereby yield 0.84 g of the title compound.

reactant | Ethyl(3-fluoro-4-hydroxyphenylamino)acetate | 4 mmol, 0.84 g | C(C)OC(CNC1=CC(=C(C=C1)O)F)=O | C10H12FNO3
reactant | acetyl chloride | 10 mmol, 0.6 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium carbonate | 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
solvent | Water | 1 mL | O | H2O
product | ethyl[acetyl(3-fluoro-4-hydroxyphenyl)amino]acetate | C(C)OC(CN(C1=CC(=C(C=C1)O)F)C(C)=O)=O | C12H14FNO4
